2163-02-15 08:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   78-year-old man with complicated prior history now with shock of
   uncertain etiology as well as marked acute renal failure.
   24 Hour Events:
   Overnight, no events. Continues to feel weak, but no sob, fever, LH/
   dizziness. Notes cough for the past "few days." unable to recall his
   meds. No L knee pain
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-2-15**] 02:42 AM
   Metronidazole - [**2163-2-15**] 05:30 AM
   Infusions:
   Dopamine - 6 mcg/Kg/min
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Other medications:
   vancomycin IV, Bicarb gtt, Ca acetate, hydrocortisone 100 IV q8
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-2-15**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 95 (86 - 95) bpm
   BP: 100/60(70) {73/52(57) - 157/92(109)} mmHg
   RR: 16 (13 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
   CVP: 11 (11 - 19)mmHg
   Total In:
                                                                  1,314 mL
   PO:
                                                                    100 mL
   TF:
   IVF:
                                                                  1,214 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    820 mL
   Urine:
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    494 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///16/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: O/P clear
   Cardiovascular: (S1: Normal), (S2: Normal, Widely split , Fixed), no
   heaves, no m/r/g noted
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar, Rhonchorous:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: R knee fistulous tract just inf to knee joint
   overlying pre-tibia
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.5 g/dL
   389 K/uL
   67 mg/dL
   4.0 mg/dL
   16 mEq/L
   6.8 mEq/L
   114 mg/dL
   113 mEq/L
   144 mEq/L
   33.7 %
   14.3 K/uL
        [image002.jpg]
                             [**2163-2-15**]  02:20 AM
   WBC
   14.3
   Hct
   33.7
   Plt
   389
   Cr
   4.0
   TropT
   0.06
   Glucose
   67
   Other labs: PT / PTT / INR:23.2/38.8/2.2, CK / CKMB /
   Troponin-T:32/8/0.06, ALT / AST:92/67, Alk Phos / T Bili:167/0.6,
   Amylase / Lipase:182/171, Lactic Acid:0.9 mmol/L, Albumin:3.6 g/dL,
   LDH:346 IU/L, Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:7.4 mg/dL
   Fluid analysis / Other labs: OSH baseline creat- 1.2-1.4
   Digoxin- 0.3
   Random cortisol- 9.8
   Imaging: OSH Echo ([**11-3**])- EF 65%, biatrial enlargement, severe RV HK,
   PASP est 81
   CXR- full hila bilaterally, ? RLL infiltrate
   Microbiology: urine, blood cx- pending
   Assessment and Plan
   SHOCK- DDx = Hypovolemia (mild response to fluids) vs Septic shock (no
   clear source) vs Obtructive (poss add'l PE) vs progression of RV
   failure (underlying severe PH) vs adrenal insuff (cortisol pending)
   -attempt to get PICC or neck CVC
   -cont discrete fluid challenge --> monitor UOP, pressor need, central
   venous sat if CVC obtained
   -echo ASAP
   -cont empiric anticoag w/ heparin gtt; will need to discuss IVC filter
   w/ patient if truly recurrent PE on therap anticoag
   -pan-cx pending; also screen for influenza. Induce sputum
   -empiric ABX as above
   -check CRP and ESR given suspicion for knee infxn/ occult osteo;
   consider MRI knee or further imaging
   -cont stress-dose steroids; should be on Bactrim prophylaxis while on
   steroids given prolonged course
   ACUTE RENAL FAILURE- Likely secondary to hemodynamics
   - f/u FeNA
   - hold dig and Bactrim for now
   - kayexelate for hyperkalemia
   - consider Renal consult
   PULMONARY HYPERTENSION- due to chronic thromboemb dz
   - heparin gtt as above
   - cont sildenafil
   - will touch base w/ Dr. [**Last Name (STitle) 5141**] at [**Hospital1 1031**]
   - other mgmt as above
   BOOP/COP- likely due to recurr aspiration based on pt's history, exam
   -HOB up 30 degrees at all times
   -start PPI [**Hospital1 **]
   s/p RIGHT TKR- with R pretibial fistula
   - check plain film, poss MRI
   - Ortho consult
   AFIB/ FLUTTER- holding dig for now, monitoring renal fxn, heart rate
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2163-2-15**] 01:34 AM
   18 Gauge - [**2163-2-15**] 01:36 AM
   20 Gauge - [**2163-2-15**] 01:37 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:  Had
 hr family meeting to discuss goals of
   care
   Code status: DNI (do not intubate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2163-02-16 12:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Family mtg yest w/ goals of care addressed. MAPS dipping to low 50s
   when Neo gtt weaned.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2163-2-15**] 06:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2163-2-16**] 01:58 AM
   Metronidazole - [**2163-2-16**] 04:07 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2163-2-15**] 02:20 PM
   Other medications:
   Ca acetate, Hydrocort 100 q8, Prilosec, sildenafil 50 tid, coumadin 2
   qhs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-2-16**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.6
C (96
   HR: 100 (91 - 102) bpm
   BP: 91/67(73) {81/45(55) - 140/85(98)} mmHg
   RR: 24 (12 - 25) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 74 Inch
   Mixed Venous O2% Sat: 71 - 71
   Total In:
                                                                  4,958 mL
                                                                    661 mL
   PO:
                                                                    550 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  4,408 mL
                                                                    541 mL
   Blood products:
   Total out:
                                                                  3,055 mL
                                                                  1,160 mL
   Urine:
                                                                  3,055 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,903 mL
                                                                   -499 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   311 K/uL
   88 mg/dL
   3.3 mg/dL
   19 mEq/L
   4.0 mEq/L
   84 mg/dL
   117 mEq/L
   150 mEq/L
   27.7 %
   18.7 K/uL
        [image002.jpg]
                             [**2163-2-15**]  02:20 AM
                             [**2163-2-15**]  08:28 AM
                             [**2163-2-15**]  10:29 AM
                             [**2163-2-15**]  05:40 PM
                             [**2163-2-16**]  04:36 AM
   WBC
   14.3
   18.4
   18.7
   Hct
   33.7
   30.3
   27.7
   Plt
   389
   337
   311
   Cr
   4.0
   4.1
   3.7
   3.3
   TropT
   0.06
   Glucose
   67
   152
   107
   88
   Other labs: PT / PTT / INR:32.0/46.5/3.3, CK / CKMB /
   Troponin-T:32/8/0.06, ALT / AST:92/67, Alk Phos / T Bili:167/0.6,
   Amylase / Lipase:182/171, Differential-Neuts:94.9 %, Band:0.0 %,
   Lymph:2.1 %, Mono:2.8 %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Albumin:3.6
   g/dL, LDH:346 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:7.1 mg/dL
   Imaging: Echo- marked dilation of RV with bowing into LV cavity
   CT head- likely meningioma
   Microbiology: C.diff- neg
   Flu DFA- neg
   Urine, Blood cx- pending
   Assessment and Plan
   GOALS OF CARE- following fam mtg and discussion w/ pt yest plan to
   transition to Hospice measures, goal of getting patient home
   SHOCK- likely RV failure in the setting of underlying severe pulm HTN
   -gentle diuresis w/ monitoring of parameters and close re-assessment
   -cont empiric anticoag w/ heparin gtt
   -cont stress-dose steroids for now
   ACUTE RENAL FAILURE- better with some diuresis, due to poor forward
   flow
   -gentle diuresis
   HYPERNATREMIA- monitor w/ diuresis
   PULMONARY HYPERTENSION- due to chronic thromboemb dz
   - heparin gtt as above
   - cont sildenafil- may titrate up
   BOOP/COP- likely due to recurr aspiration based on pt's history, exam
   -HOB up 30 degrees at all times
   -start PPI [**Hospital1 **]
   s/p RIGHT TKR- with R pretibial fistula
   - check plain film, poss MRI
   - Ortho consult
   AFIB/ FLUTTER- holding dig for now, monitoring renal fxn, heart rate
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2163-2-15**] 01:36 AM
   PICC Line - [**2163-2-15**] 10:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments: yest pm fam mtg end
   result is goal to get home and Hospice measures
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2163-02-17 10:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Episode of unresponsiveness on transfer from chair to bed w/ assoc BP
   down to 60s systolic. BG ok. Transient, lasted 15-30 seconds, and spont
   resolved.
   Weaned off phenylephrine gtt yest pm and put back on overnight while
   sleeping for asymptomatic hypotension, SBP 70s. Shut off again this am
   aroudn 9:30am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2163-2-15**] 06:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2163-2-17**] 01:48 AM
   Metronidazole - [**2163-2-17**] 04:15 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2163-2-16**] 12:24 PM
   Other medications:
   hydrocort 100 IV q8,  Ca acetate, Omeprazole, Coumadin, Viagra 75 tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-2-17**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 93 (92 - 127) bpm
   BP: 111/71(81) {69/42(49) - 122/75(84)} mmHg
   RR: 18 (12 - 33) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 74 Inch
             Total In:
                                                                  1,487 mL
                                                                    328 mL
   PO:
                                                                    480 mL
             TF:
   IVF:
                                                                  1,007 mL
                                                                    328 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    735 mL
   Urine:
                                                                  1,740 mL
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -253 mL
                                                                   -407 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal, Widely split )
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   248 K/uL
   111 mg/dL
   2.9 mg/dL
   21 mEq/L
   3.8 mEq/L
   74 mg/dL
   119 mEq/L
   151 mEq/L
   26.7 %
   18.2 K/uL
        [image002.jpg]
                             [**2163-2-15**]  02:20 AM
                             [**2163-2-15**]  08:28 AM
                             [**2163-2-15**]  10:29 AM
                             [**2163-2-15**]  05:40 PM
                             [**2163-2-16**]  04:36 AM
                             [**2163-2-16**]  04:33 PM
                             [**2163-2-17**]  03:53 AM
   WBC
   14.3
   18.4
   18.7
   18.2
   Hct
   33.7
   30.3
   27.7
   26.7
   Plt
   389
   337
   311
   248
   Cr
   4.0
   4.1
   3.7
   3.3
   3.0
   2.9
   TropT
   0.06
   Glucose
   67
   152
   107
   88
   121
   111
   Other labs: PT / PTT / INR:37.0/40.6/3.9, CK / CKMB /
   Troponin-T:32/8/0.06, ALT / AST:92/67, Alk Phos / T Bili:167/0.6,
   Amylase / Lipase:182/171, Differential-Neuts:94.9 %, Band:0.0 %,
   Lymph:2.1 %, Mono:2.8 %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Albumin:3.6
   g/dL, LDH:346 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   GOALS OF CARE- following fam mtg and discussion w/ pt yest plan to
   transition to Hospice measures, goal of getting patient home
   -will need to discuss with pt and family regarding aggressiveness of
   care as pt nears readiness for discharge
   -specifically discuss which medications to continue and which to stop
   RV FAILURE DUE TO PULM HTN- resolved w/ titration of sildenafil and RV
   afterload reduction
   -titrate up sildenafil to 100 tid and monitor for symptomatic
   hypotension
   -cont anticoag w/ coumadin; held today for supratherapeutic level
   -wean off stress-dose steroids and transition back to po prednisone 10
   qd
   ACUTE RENAL FAILURE- due to poor forward flow, improved with RV
   afterload reduction and better cardiac output
   HYPERNATREMIA- encourage po intake
   BOOP/COP- likely due to recurr aspiration based on pt's history, exam
   -HOB up 30 degrees at all times
   -start PPI [**Hospital1 **]
   s/p RIGHT TKR W? CHRONIC WOUND INFXN/ OSTEOMYELITIS
   -chronic suppressive ABX --> change back to po Bactrim
   AFIB/ FLUTTER- holding dig for now, monitoring renal fxn, heart rate
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2163-2-15**] 10:00 AM
   20 Gauge - [**2163-2-16**] 07:08 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes

2163-02-19 10:14:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Walked without getting dizzy
   Vitals stable
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2163-2-17**] 01:48 AM
   Metronidazole - [**2163-2-17**] 04:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   omeprazole, bactrim, amoxicillin, digoxin, viagra, prednisone - 10 mg
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-2-19**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.6
C (96.1
   HR: 98 (88 - 109) bpm
   BP: 102/54(76) {89/43(55) - 117/67(77)} mmHg
   RR: 18 (12 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
                  Total In:
                                                                  1,750 mL
                                                                    240 mL
   PO:
                                                                  1,750 mL
                                                                    240 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    655 mL
   Urine:
                                                                  1,350 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    400 mL
                                                                   -415 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   213 K/uL
   73 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.3 mEq/L
   39 mg/dL
   120 mEq/L
   148 mEq/L
   25.8 %
   14.5 K/uL
        [image002.jpg]
                             [**2163-2-15**]  02:20 AM
                             [**2163-2-15**]  08:28 AM
                             [**2163-2-15**]  10:29 AM
                             [**2163-2-15**]  05:40 PM
                             [**2163-2-16**]  04:36 AM
                             [**2163-2-16**]  04:33 PM
                             [**2163-2-17**]  03:53 AM
                             [**2163-2-17**]  08:30 PM
                             [**2163-2-18**]  04:21 AM
                             [**2163-2-19**]  04:43 AM
   WBC
   14.3
   18.4
   18.7
   18.2
   13.6
   14.5
   Hct
   33.7
   30.3
   27.7
   26.7
   26.1
   25.8
   Plt
   389
   337
   311
   [**Telephone/Fax (3) 5292**]
   Cr
   4.0
   4.1
   3.7
   3.3
   3.0
   2.9
   2.4
   2.2
   1.5
   TropT
   0.06
   Glucose
   67
   152
   107
   88
   121
   111
   132
   65
   73
   Other labs: PT / PTT / INR:18.1/31.8/1.7, CK / CKMB /
   Troponin-T:32/8/0.06, ALT / AST:92/67, Alk Phos / T Bili:167/0.6,
   Amylase / Lipase:182/171, Differential-Neuts:94.9 %, Band:0.0 %,
   Lymph:2.1 %, Mono:2.8 %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Albumin:3.6
   g/dL, LDH:346 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Goals of Care:
   - continue sildenafil at 100mg tid to treat his RV failure, keep him
   off pressors and allow him to go home with hospice
   - will d/c iv antibiotics as has been no clear infection
   - continue one additional day of stress dose steroids, will then change
   to prednisone 10mg po qd
   - will continue po bactrim and augmentin for chronic osteomyelitis
   suppression
   - will d/c coumadin given patient was guaiac (+) as OSH given risk of
   bleed  - patient to see me in 2 week and INR will be drawn
   then/determination whether or not to restart
   - palliative care following, appreciate recommendations - working to
   transition patient home to hospice.
   # Shock NOS:  Likely [**2-28**] to RV failure (chronic) and sub-optimally
   treated pulmonary hypertension as patient has not desired full
   treatment.  Patient with leukocytosis which is likely [**2-28**] to sstress
   dose steroids as not clinically systemically infected.  Patient with
   extremely poor forward flow and has little ability to maintain bp with
   changes in posture.
   - continue sildenafil 100mg tid
   - abx d/c'ed as above
   - palliative care as above
   # Hyperkalemia: Resolved
   # ARF: Resolving
   - Continue to trend. Creat 1.5 today which is below baseline.
   # Cryptogenic organizing pna: Steroid dependent since [**Month (only) 1148**], has been
   unable to wean below 10 mg daily.  Patient was not clear on admission
   that this is the amount of prednisone he is actually taking daily.  On
   2L NC at night when at home.
   - steroids as above
   - continue po Bactrim for ppx
   - Continue supplemental oxygen as needed
   # Leukocytosis: Stable, likely  [**2-28**] steroids
   - trend
   # R TKR with chronic infection: Plain film showing free air within the
   joint space.  This is possible source of infection for septic shock.
   Has been on suppressive therapy with Augmentin and Bactrim, though
   wound is still poorly healing.
   - d/c abx as above
   - no further workup given goals of care
   # dCHF: Echo showed marked RV dysfunction with RV bowing into LV as
   above.  Prior echo in [**Month (only) 1148**] showed EF 65% with some old RV
   dysfunction, likely from prior PEs.  Also with pulmonary hypertension.
   - cautious fluid status managment as in very delicate balance
   # Multiple PEs: On coumadin, subtherapeutic, has h/o developing new PEs
   while on anticoagulation. Also has pulmonary hypertension [**2-28**] PEs, on
   viagra.
   - continue sildenafil 100mg tid
   # Anemia: 26 down from 33 two days ago. Possibly dilutional, no signs
   of bleeding though has guaiac pos stool in [**Location (un) 250**] ED.  Baseline Hct
   around 32 per report. Got 1 unit prbcs prior to transfer.
   - Guaiac all stools
   # Afib/flutter:  Coumadin held last night at pt was supratherapeutic
   - holding coumadin
   - continue digoxin as keeping patient rate controlled important for
   maintenance of BP and quality of life
   # ECG changes: He does have S1Q3T3, though not significantly changed
   from prior, patient has old RBBB. Troponin mildly elevated, and some ST
   depression in lateral precordial leads. No CP.
   - no active treatment
     # FEN: Regular diet as tolerated, encouraging po fliuds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2163-2-15**] 10:00 AM
   20 Gauge - [**2163-2-16**] 07:08 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent:

2163-02-20 11:01:00 Physician Attending Progress Note
Chief Complaint: Primary Pulmonary Hypertension
   HPI:
   24 Hour Events:
 PICC LINE - STOP [**2163-2-19**] 11:04 AM
   No events, stable overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications: sildenafil, prilosec, bactrim, augmentin, digoxin,
   prednisone 10mg
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-2-20**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 92 (88 - 101) bpm
   BP: 118/61(74) {94/50(61) - 121/68(79)} mmHg
   RR: 16 (10 - 27) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
                  Total In:
                                                                    720 mL
                  PO:
                                                                    720 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,205 mL
                                                                    600 mL
   Urine:
                                                                  1,205 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -485 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ////
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Widely split , Fixed), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.6 g/dL
   213 K/uL
   73 mg/dL
   1.5 mg/dL
   21 mEq/L
   4.3 mEq/L
   39 mg/dL
   120 mEq/L
   148 mEq/L
   25.8 %
   14.5 K/uL
        [image002.jpg]
                             [**2163-2-15**]  02:20 AM
                             [**2163-2-15**]  08:28 AM
                             [**2163-2-15**]  10:29 AM
                             [**2163-2-15**]  05:40 PM
                             [**2163-2-16**]  04:36 AM
                             [**2163-2-16**]  04:33 PM
                             [**2163-2-17**]  03:53 AM
                             [**2163-2-17**]  08:30 PM
                             [**2163-2-18**]  04:21 AM
                             [**2163-2-19**]  04:43 AM
   WBC
   14.3
   18.4
   18.7
   18.2
   13.6
   14.5
   Hct
   33.7
   30.3
   27.7
   26.7
   26.1
   25.8
   Plt
   389
   337
   311
   [**Telephone/Fax (3) 5292**]
   Cr
   4.0
   4.1
   3.7
   3.3
   3.0
   2.9
   2.4
   2.2
   1.5
   TropT
   0.06
   Glucose
   67
   152
   107
   88
   121
   111
   132
   65
   73
   Other labs: PT / PTT / INR:18.1/31.8/1.7, CK / CKMB /
   Troponin-T:32/8/0.06, ALT / AST:92/67, Alk Phos / T Bili:167/0.6,
   Amylase / Lipase:182/171, Differential-Neuts:94.9 %, Band:0.0 %,
   Lymph:2.1 %, Mono:2.8 %, Eos:0.1 %, Lactic Acid:1.1 mmol/L, Albumin:3.6
   g/dL, LDH:346 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Goals of Care:
    - continue sildenafil at 100mg tid to treat his RV failure, keep him
   off pressors and allow him to go home with hospice
    - will d/c iv antibiotics as has been no clear infection
    - continue one additional day of stress dose steroids, will then
   change to prednisone 10mg po qd
   - will continue po bactrim and augmentin for chronic osteomyelitis
   suppression
    - will d/c coumadin given patient was guaiac (+) as OSH given risk of
   bleed  - patient to see me in 2 week and INR will be drawn
   then/determination whether or not to restart
    - palliative care following, appreciate recommendations - working to
   transition patient home to hospice.
   # Shock NOS:  Likely [**2-28**] to RV failure (chronic) and sub-optimally
   treated pulmonary hypertension as patient has not desired full
   treatment.  Patient with leukocytosis which is likely [**2-28**] to sstress
   dose steroids as not clinically systemically infected.
    - continue sildenafil 100mg tid
    - abx d/c'ed as above
   - palliative care as above
   # Hyperkalemia: Resolved
   # ARF: Resolving
   - Continue to trend. Creat 1.5 today which is below baseline.
   # Cryptogenic organizing pna: This is not a clear diagnosis but he has
   been steroid dependent since [**Month (only) 1148**], has been unable to wean below 10
   mg daily.  On 2L NC at night when at home.
   - steroids as above
   - continue po Bactrim for ppx
   - Continue supplemental oxygen as needed
   # Leukocytosis: Stable, likely  [**2-28**] steroids
    - trend
   # R TKR with chronic infection: Plain film showing free air within the
   joint space.  This is possible source of infection for septic shock.
   Has been on suppressive therapy with Augmentin and Bactrim, though
   wound is still poorly healing.
   - no further workup given goals of care
   # dCHF: Echo showed marked RV dysfunction with RV bowing into LV as
   above.  Prior echo in [**Month (only) 1148**] showed EF 65% with some old RV
   dysfunction, likely from prior PEs.  Also with pulmonary hypertension.
   - cautious fluid status managment as in very delicate balance
   # Multiple PEs: On coumadin, subtherapeutic, has h/o developing new PEs
   while on anticoagulation. Also has pulmonary hypertension [**2-28**] PEs, on
   viagra.
   - continue sildenafil 100mg tid
   # Anemia: 26 down from 33 two days ago. Possibly dilutional, no signs
   of bleeding though has guaiac pos stool in [**Location (un) 250**] ED.  Baseline Hct
   around 32 per report. Got 1 unit prbcs prior to transfer.
   - Guaiac all stools
   # Afib/flutter:  Coumadin held last night at pt was supratherapeutic
   - holding coumadin
   - continue digoxin as keeping patient rate controlled important for
   maintenance of BP and quality of life
   # ECG changes: He does have S1Q3T3, though not significantly changed
   from prior, patient has old RBBB. Troponin mildly elevated, and some ST
   depression in lateral precordial leads. No CP.
   - no active treatment
     # FEN: Regular diet as tolerated, encouraging po fliuds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: